US04214097
In the manner of Example I B, 810 mg of benzyl alcohol was reacted with 1122 mg of ethyl 3,3-dimethyl-4-pentenoate in the presence of 48 mg of sodium ethoxide in 30 ml of toluene to give 1.0 g (65% yield) of benzyl 3,3-dimethyl-4-pentenoate, b.p. 92°-98°/0.1 mm.

reactant | benzyl alcohol | 810 mg | C(C1=CC=CC=C1)O | C7H8O
reactant | ethyl 3,3-dimethyl-4-pentenoate | 1122 mg | CC(CC(=O)OCC)(C=C)C | C9H16O2
reactant | sodium ethoxide | 48 mg | [O-]CC.[Na+]
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | benzyl 3,3-dimethyl-4-pentenoate | 1.0 g, 65% yield | CC(CC(=O)OCC1=CC=CC=C1)(C=C)C | C14H18O2
